US07666879B2
4-(7-Thien-3-yl-imidazo[1,2-a]pyridin-3-yl)-benzylamine
Dissolve 4-(7-thien-3-yl-imidazo[1,2-a]pyridin-3-yl)-benzonitrile (0.087 g, 0.29 mmol) in THF (8 mL). To the solution add a BH3.Me2S solution (2 M, 1.0 mL, 2.0 mmol) at room temperature. Stir the solution for 15 minutes and then heat at 50° C. for 3.5 hours. Cool the mixture at 0° C. and acidify to pH=1 slowly and stir for 30 minutes. Make the reaction mixture basic with solid NaOH to pH=12-14, followed by extraction with ethyl acetate. Wash the extracts with saturated aqueous saturated sodium chloride, dry over MgSO4, filter and evaporate to afford 0.070 g. MS(ES), m/z 306 (M+1).

reactant | 4-(7-thien-3-yl-imidazo[1,2-a]pyridin-3-yl)-benzonitrile | 0.29 mmol, 0.087 g | S1C=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(C#N)C=C2 | C18H11N3S
reactant | Me2S | 2.0 mmol, 2 M, 1.0 mL | S(C)C | C2H6S
reactant | NaOH | [OH-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-(7-Thien-3-yl-imidazo[1,2-a]pyridin-3-yl)-benzylamine | S1C=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(CN)C=C2 | C18H15N3S
